US07943639B2
4-(4-Piperazin-1-yl-pyrrolo[3,2-c]pyridine-1-sulfonyl)-benzonitrile hydrochloride
4-Cyanobenzenesulfonyl chloride (26.0 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (9.1 mg). LC/MS RT: 1.150 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 93%. MS: 369 (M+1) 1HNMR (CD3OD) δ ppm 3.50 (m, 4H) 4.08 (m, 4H) 7.29 (d, J=3.71 Hz, 2H) 7.98 (m, 4H) 8.29 (d, J=8.66 Hz, 2H).

reactant | 4-Cyanobenzenesulfonyl chloride | 26.0 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 4-(4-Piperazin-1-yl-pyrrolo[3,2-c]pyridine-1-sulfonyl)-benzonitrile hydrochloride | 9.1 mg | Cl.N1(CCNCC1)C1=NC=CC2=C1C=CN2S(=O)(=O)C2=CC=C(C#N)C=C2 | InChI=1S/C18H17N5O2S.ClH/c19-13-14-1-3-15(4-2-14)26(24,25)23-10-6-16-17(23)5-7-21-18(16)22-11-8-20-9-12-22;/h1-7,10,20H,8-9,11-12H2;1H
